US04414225
4-Chloro-5-cyano-2,3,6,7-tetrahydro-1H-azepine hydrochloride
1.45 gm (0.005 mol) of benzyl 4-chloro-5-cyano-2,3,6,7-tetrahydro-1H-1-azepine-carboxylate were dissolved in 20 ml of ethyl alcohol by addition of 0.9 ml of semiconcentrated hydrochloric acid, and after the addition of 0.2 gm of palladium-on-charcoal, the mixture was hydrogenated in an autoclave at room temperature and under a hydrogen pressure of 5 bars. After half an hour, the uptake of hydrogen had ended. The catalyst was filtered off, and the filtrate was evaporated in vacuo. The residue was recrystallized from isopropyl alcohol.

reactant | benzyl 4-chloro-5-cyano-2,3,6,7-tetrahydro-1H-1-azepine-carboxylate | 0.005 mol, 1.45 gm | ClC=1CCN(CCC1C#N)C(=O)OCC1=CC=CC=C1 | C15H15ClN2O2
reactant | hydrogen | [H][H] | H2
solvent | ethyl alcohol | 20 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 0.9 ml | Cl | ClH
catalyst | palladium-on-charcoal | 0.2 gm | [Pd] | Pd
product | 4-Chloro-5-cyano-2,3,6,7-tetrahydro-1H-azepine hydrochloride | Cl.ClC=1CCNCCC1C#N | InChI=1S/C7H9ClN2.ClH/c8-7-2-4-10-3-1-6(7)5-9;/h10H,1-4H2;1H
